US05556861
A suspension of 0.88 g of 3-ethoxycarbonyl-7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydrobenzo-[b][1,8]naphthyridine in a mixture of 10 cm3 of 17.5% aqueous hydrochloric acid solution and 10 cm3 of acetic acid is heated with stirring to a temperature in the region of 100° C. for 3 hours. After cooling to approximately 20° C., the product is drained and washed with 3 times 10 cm3 of water. 0.75 g of 7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3carboxylic acid is obtained in the form of a pale yellow solid, which decomposes at 352° C. and which is used without further purification for the subsequent steps.

reactant | 3-ethoxycarbonyl-7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydrobenzo-[b][1,8]naphthyridine | 0.88 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C(=C(C(=C3)F)F)F)=O | C16H11F3N2O3
solvent | hydrochloric acid | 10 cm3 | Cl | ClH
solvent | acetic acid | 10 cm3 | C(C)(=O)O | C2H4O2
product | 7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3carboxylic acid | 0.75 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C(=C1F)F | C14H7F3N2O3
